data/mechanism_extracts/Synthesis/10.1055_s-0040-1720135_si13.json
{"doi": "10.1055_s-0040-1720135_si13", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Electrochemical triacetoxylation of allylbenzenes (alkylbenzenes bearing a terminal alkene) to give 1,2,3-triacetoxy products via anodic oxidation and acetate trapping", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of the allylarene to an alkene radical cation; subsequent anodic oxidation of a β-acetoxy carbon radical to a cation/acyloxonium; cathode reduces protons to H2", "key_intermediates": [{"name": "allylarene alkene radical cation (B)", "smiles": null, "role": "reactive"}, {"name": "β-acetoxy benzylic carbon radical (C)", "smiles": null, "role": "reactive"}, {"name": "1,3-dioxolan-2-ylium (acyloxocarbenium) intermediate D with Me at C2", "smiles": null, "role": "reactive"}, {"name": "1,2-diacetoxy intermediate E (vicinal diacetate)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical F after further anodic oxidation/H loss", "smiles": null, "role": "transient"}, {"name": "1,2,3-triacetoxy product G", "smiles": null, "role": "reactive"}, {"name": "cinnamyl acetate H (allylic acetate)", "smiles": "CC(=O)OC/C=C/c1ccccc1", "role": "off_pathway"}, {"name": "1,3-diacetoxy isomer 6a", "smiles": null, "role": "off_pathway"}, {"name": "internal alkene 1a' (β-methylstyrene)", "smiles": "C/C=C/c1ccccc1", "role": "off_pathway"}], "electron_flow": "The anode performs SET on the allylarene to generate an alkene radical cation that is captured by acetate to give a β-acetoxy benzylic radical; a second anodic oxidation produces a cation that closes to a methyl-substituted 1,3-dioxolan-2-ylium, which is opened by acetate to the 1,2-diacetate, and a further anodic oxidation/deprotonation followed by acetate trapping installs the third OAc. Protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "1,3-diacetoxy isomer 6a (putative intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Resubjection of 6a under standard conditions gave 2a in 68%; without electricity 2a was not detected — supports 6a as a competent intermediate requiring anodic oxidation"}, {"name": "cinnamyl acetate 7a", "smiles": "CC(=O)OC/C=C/c1ccccc1", "purpose": "intermediate_trap", "observation": "Decomposed under standard conditions, no 2a formed — excludes allylic acetate H as on-cycle intermediate"}, {"name": "internal alkene β-methylstyrene 1a'", "smiles": "C/C=C/c1ccccc1", "purpose": "intermediate_trap", "observation": "Gave 1,2-diacetate 3a in 75% but no triacetate 2a — suggests terminal alkene geometry is required for triacetoxylation"}, {"name": "para-CF3 allylbenzene 1p", "smiles": "FC(F)(F)c1ccc(CC=C)cc1", "purpose": "other", "observation": "Gave 2p (22%) and 1,3-diacetate 3p (6%); electron-poor arene lowers yield, consistent with arene-assisted oxidation"}, {"name": "cyclopropyl-substituted allylarene (radical clock)", "smiles": null, "purpose": "radical_clock", "observation": "No ring-opened products from a vinylcyclopropane substrate; ring-opened acyclic triacetate 2v formed in 7% (1.4:1 dr), consistent with a radical intermediate adjacent to the cyclopropane"}, {"name": "in situ GC-MS time course", "smiles": null, "purpose": "other", "observation": "GC-MS at 2.5 h detected 1,2-diacetate, 1,3-diacetate (6a), propylbenzene/alkene byproducts, and triacetate 2a, supporting stepwise build-up via diacetate intermediates"}], "evidence_types_used": ["intermediate_trap_other", "radical_clock", "stoichiometric_intermediate", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Authors disfavor a pathway through cinnamyl acetate H (allylic C–H acetoxylation product), since independently prepared 7a decomposes under the conditions and does not yield 2a. The 1,3-diacetate 6a is shown to be a productive on-cycle intermediate (requires current), implicating a 1,3-dioxolan-2-ylium (acyloxonium) opening by acetate. Internal alkene 1a' diverts to the 1,2-diacetate 3a only, indicating the third acetoxylation requires the terminal-alkene-derived radical/cation manifold. A minor amount of ring-opened triacetate from a cyclopropyl probe (2v, 7%) supports radical character at the benzylic position."}
